US07947692B2
A solution of 4-[Ethoxycarbonyl-(3-trifluoromethyl-phenyl)-methyl]-piperazine-1-carboxylic acid tert-butyl ester (2.10 g, 5.05 mmol) in tetrahydrofuran (30 mL) at 0° C. was added lithium aluminum hydride (1M in tetrahydrofuran, 7.57 mL, 7.57 mmol) dropwise. The mixture was stirred at 0° C. for two hours. The excess LAH was quenched with ethyl acetate and the mixture was stirred with sodium sulfate decahydrate for 10 minutes. The slurry was filtered and the filtrate partitioned between ethyl acetate and water. The organic layer was dried with magnesium sulfate. Filtration, concentration gave a crude which was loaded onto a column of silica gel. Elution with 40% ethyl acetate/hexanes gave 4-[2-Hydroxy-1-(3-trifluoromethyl-phenyl)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester (1.4 g, 74% yield) as a colorless oil. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 4-[Ethoxycarbonyl-(3-trifluoromethyl-phenyl)-methyl]-piperazine-1-carboxylic acid tert-butyl ester | 5.05 mmol, 2.10 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC(=CC=C1)C(F)(F)F)C(=O)OCC | C20H27F3N2O4
reactant | lithium aluminum hydride | 7.57 mmol, 1M, 7.57 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-[2-Hydroxy-1-(3-trifluoromethyl-phenyl)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester | 1.4 g, 74% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CO)C1=CC(=CC=C1)C(F)(F)F | C18H25F3N2O3
